US09029531B2
Step B: methyl 2-(2-(tert-butoxycarbonylamino)thiazol-4-yl)acetate
A solution of di-tert-butyl dicarbonate (279 mg, 1.28 mmol) in toluene (3 ml) was added a vessel containing methyl 2-(2-aminothiazol-4-yl)acetate (200 mg, 1.16 mmol), the reaction mixture was heated at 85° C. for 24 h. LCMS showed that the desired product was detected, the mixture was concentrated to give the residue, the residue was purified by a standard method to give the desired product. LC-MS: m/z (M+H)=273.3

reactant | di-tert-butyl dicarbonate | 1.28 mmol, 279 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 2-(2-aminothiazol-4-yl)acetate | 1.16 mmol, 200 mg | NC=1SC=C(N1)CC(=O)OC | C6H8N2O2S
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(2-(tert-butoxycarbonylamino)thiazol-4-yl)acetate | C(C)(C)(C)OC(=O)NC=1SC=C(N1)CC(=O)OC | C11H16N2O4S
